US06689922B1
(Z)-6-[3-(3,4-bis-Hydroxymethylbenzyloxy)-phenyl]-2-methylnon-5-en-2-ol
In a manner similar to Example 84(c), by reacting 1 g (1.6 mmol) of ethyl (Z)-5-[3-(3,4-bis-hydroxymethylbenzyloxy)phenyl]oct-4-enoate (prepared in a manner similar to Examples 84(a-b)) with 5.4 ml (16 mmol) of a 3.0M solution of methylmagnesium bromide, a colourless oil is obtained (m=516 mg; Y=81%).

reactant | ethyl (Z)-5-[3-(3,4-bis-hydroxymethylbenzyloxy)phenyl]oct-4-enoate | 1.6 mmol, 1 g | OCC=1C=C(COC=2C=C(C=CC2)\C(=C/CCC(=O)OCC)\CCC)C=CC1CO | C25H32O5
reactant | methylmagnesium bromide | C[Mg]Br
product | (Z)-6-[3-(3,4-bis-Hydroxymethylbenzyloxy)-phenyl]-2-methylnon-5-en-2-ol | OCC=1C=C(COC=2C=C(C=CC2)\C(=C/CCC(C)(O)C)\CCC)C=CC1CO | C25H34O4
